* T-line series-termination spike (rlx-eda)
.options method=gear maxord=1
Vsrc vsrc 0 PULSE(0.0000000000e0 3.3000000000e0 5.0000000000e-10 1.0000000000e-12 1.0000000000e-12 2.4000000000e-8 1.0000000000e30)
Rdrv vsrc vmid 1.0000000000e1
T1 vmid 0 vrx 0 Z0=50.000000 TD=1.0000000000e-9
Rload vrx 0 1.0000000000e9
.ic v(vmid)=0 v(vrx)=0

.control
set filetype=binary
tran 2.000000e-11 1.200000e-8 uic
write /Users/Shared/rlx-eda/crates/spike-tline-termination/docs/unterminated.raw v(vrx) v(vmid)
quit
.endc
.end
